US07662771B2
5-[4-(2-hydroxy-phenyl)-thiazol-2-yl]-pentanoic acid
Dissolve 5-[4-(2-methoxy-phenyl)-thiazol-2-yl]-pentanoic acid methyl ester (3.20 g, 10.5 mmol) in acetic acid (50 mL, glacial), add HBr (50 mL, 48% aqueous solution) and heat to reflux under N2 for 6 hours. Add additional HBr (20 mL, 48% aqueous solution) and heat at reflux under N2 overnight. Adjust to pH 4 with 5N NaOH solution, extract with EtOAc (×2), dry over MgSO4 and concentrate to get 2.64 grams of a light brown solid. Recrystallize from EtOAc/hexanes to afford the title compound (2.14 g, 74%). MS (IS) 278 (M+1)+.

reactant | 5-[4-(2-methoxy-phenyl)-thiazol-2-yl]-pentanoic acid methyl ester | 10.5 mmol, 3.20 g | COC(CCCCC=1SC=C(N1)C1=C(C=CC=C1)OC)=O | C16H19NO3S
reactant | HBr | 50 mL | Br | BrH
reactant | HBr | 20 mL | Br | BrH
reactant | NaOH | 5N | [OH-].[Na+]
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 5-[4-(2-hydroxy-phenyl)-thiazol-2-yl]-pentanoic acid | 2.64 grams | OC1=C(C=CC=C1)C=1N=C(SC1)CCCCC(=O)O | C14H15NO3S
